US08242125B2
143-A. 5-(6,7-Dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid [5-(1-aminomethyl-cyclopropyl)-isoxazol-3-yl]-amide
To a solution of 4-{1-[5-(1-hydroxymethyl-cyclopropyl)-isoxazol-3-ylcarbamoyl]-1H-indol-5-yloxy}-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester (500 mg, 0.939 mmol) in THF (10 mL), at 0° C., triethylamine (0.262 mL, 1.88 mmol) methanesulfonyl chloride (0.110 mL, 1.41 mmol) and DMAP (11.5 mg, 0.094 mmol) are added. After 2 h the reaction is complete and is quenched with water and the organics extracted with EtOAc. The crude product following concentration is then dissolved in THF (30 mL), and NH3 in MeOH (1.82 mL, 12.8 mmol) is added. The reaction is stirred for 36 h. At this point the volatiles are removed and the crude product is dissolved in DCM (10 mL) and then TFA (10 mL, 130 mmol) is added. After 10 minutes the volatiles are removed in vacuo. The product is dissolved in EtOAc and then NH4OH is added. The organics are removed and the crude product separated via FCC eluting with DCM:MeOH:NH4OH (100:0:0 to 92:7:1) to give the title compound. MS (ESI) m/z 432.0 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.55 (s, 1H) 8.35 (d, J=8.84 Hz, 1H) 8.15 (d, J=3.54 Hz, 1H) 7.44 (d, J=2.53 Hz, 1H) 7.11 (dd, J=9.09, 2.53 Hz, 1H) 6.77 (s, 1H) 6.70 (d, J=4.04 Hz, 1H) 4.09 (d, J=11.87 Hz, 4H) 2.94 (s, 2H) 1.05 (d, J=3.03 Hz, 4H).

reactant | 4-{1-[5-(1-hydroxymethyl-cyclopropyl)-isoxazol-3-ylcarbamoyl]-1H-indol-5-yloxy}-5,7-dihydro-pyrrolo[3,4-d]pyrimidine-6-carboxylic acid tert-butyl ester | 0.939 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CC=2N=CN=C(C2C1)OC=1C=C2C=CN(C2=CC1)C(NC1=NOC(=C1)C1(CC1)CO)=O | C27H28N6O6
reactant | triethylamine | 1.88 mmol, 0.262 mL | C(C)N(CC)CC | C6H15N
reactant | NH3 | N | H3N
reactant | MeOH | 12.8 mmol, 1.82 mL | CO | CH4O
reactant | TFA | 130 mmol, 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.094 mmol, 11.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-(6,7-Dihydro-5H-pyrrolo[3,4-d]pyrimidin-4-yloxy)-indole-1-carboxylic acid [5-(1-aminomethyl-cyclopropyl)-isoxazol-3-yl]-amide | NCC1(CC1)C1=CC(=NO1)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)CNC2 | C22H21N7O3
